US04922028
Hydroformylation of a C4 -C12Naphtha with a Tributyl Phosphine Rhodium Complex
A broad naphtha cut previously described was hydroformylated in the presence of a catalyst system containing 10 mM rhodium, employed as dicarbonyl acetylacetonate, and 0.14M tri-n-butyl phosphine. The reaction was run at 180° under 1000 psi (6900 kPa) pressure for 40 minutes. The initial H2 /CO ratio was 1, the H2 /CO feed ratio employed during the run 1.22 and the final head space ratio 1.95. The increase of the H2 /CO ratio during the run indicated that very little hydrogenation side reaction occurred.

reactant | rhodium | 10 mM | [Rh] | Rh
reactant | tri-n-butyl phosphine | 0.14M | C(CCC)P(CCCC)CCCC | C12H27P
product | Tributyl Phosphine Rhodium | [Rh].C(CCC)P(CCCC)CCCC | InChI=1S/C12H27P.Rh/c1-4-7-10-13(11-8-5-2)12-9-6-3;/h4-12H2,1-3H3;
